US06306891B1
To a 100 mL round bottomed flask containing 5-phenyl-1H-pyrrole-2-carboxylic acid methoxymethylamide AV-6-1 (0.692 g, 3.01 mmol) was added a stirring bar and an argon inlet was attached. THF (15 mL) was added and, when all of the solids had dissolved, NaH-oil suspension (0.132 g of a 60% w/w suspension, 3.31 mmol) was added. This mixture was stirred 15 min at ambient temperature then 4-fluorobenzylbromide (0.41 mL, 3.31 mmol) was added. The resulting mixture was stirred 24 h at ambient temperature. The mixture was diluted with EtOAc and the solution was washed with 1N HCl, water and brine. Drying (MgSO4), filtration and removal of the solvent in vacuo gave an oil. This material was chromatographed on silica gel using 25% EtOAc in hexanes a eluant to give 1-(4-fluorobenzyl)-5-phenyl-1H-pyrrole-2-carboxylic acid methoxy-methyl-amide AV-7-1. 1H NMR (CDCl3) δ 3.21 (3H, s), 3.47 (3H, s), 5.52 (2H, s), 6.24 (1H, d, j=3.9 Hz), 6.75 to 6.90 (5H, m), 6.94 (1H, d, j=3.9 Hz), 7.38 (4H, m).

reactant | 5-phenyl-1H-pyrrole-2-carboxylic acid methoxymethylamide | 3.01 mmol, 0.692 g | COCNC(=O)C=1NC(=CC1)C1=CC=CC=C1 | C13H14N2O2
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | NaH | [H-].[Na+]
reactant | 4-fluorobenzylbromide | 3.31 mmol, 0.41 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(4-fluorobenzyl)-5-phenyl-1H-pyrrole-2-carboxylic acid methoxy-methyl-amide | CON(C(=O)C=1N(C(=CC1)C1=CC=CC=C1)CC1=CC=C(C=C1)F)C | C20H19FN2O2
